US04012512
86 g of 2-nitro-5-chloroaniline is dissolved in 400 ml of ethanol and the solution heated to 70° C internal temperature. An addition is made dropwise of a solution of 30.5 g of potassium hydroxide and 68 g of benzylmercaptan in 300 ml of ethanol. The reaction proceeds exothermically. Stirring is maintained overnight at the same internal temperature. The cooled mixture is stirred into ice water; the precipitate is filtered off under suction and recrystallised from ethanol to obtain 104.7 g (= 80% of theory) of 2-nitro-5-benzylthio-aniline, M.P. 113°-115° C.

reactant | 2-nitro-5-chloroaniline | 86 g | [N+](=O)([O-])C1=C(N)C=C(C=C1)Cl | C6H5ClN2O2
reactant | potassium hydroxide | 30.5 g | [OH-].[K+]
reactant | benzylmercaptan | 68 g | C(C1=CC=CC=C1)S | C7H8S
solvent | ethanol | 400 ml | C(C)O | C2H6O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-nitro-5-benzylthio-aniline | 104.7 g, 80% | [N+](=O)([O-])C1=C(N)C=C(C=C1)SCC1=CC=CC=C1 | C13H12N2O2S
